US08067426B2
Intermediate 19: 9-(5-Chloropentyl)-2-{[(1S)-1-methylbutyl]oxy}-8-(methyloxy)-9H-purin-6-amine
2-{[(1S)-1-Methylbutyl]oxy}-8-(methyloxy)-9H-purin-6-amine trifluoroacetate (600 mg, 1.642 mmol) and potassium carbonate (567 mg, 4.11 mmol) were stirred at 60° C. in DMF (10 ml) for 1 hour under nitrogen. The reaction was cooled to room temperature when 1-bromo-5-chloropentane (0.216 ml, 1.642 mmol) and triethylamine (0.343 ml, 2.464 mmol) were added and the mixture stirred at 20° C. under nitrogen for 16 hours. The mixture was then diluted with water (10 ml) and brine (10 ml) and extracted with DCM (2×10 ml). The combined organic extracts were evaporated and the residue dissolved in DCM and purified by column chromatography using the Flashmaster II (70 g aminopropyl cartridge) with a 0-100% ethyl acetate in cyclohexane gradient over 40 mins. The appropriate fractions were combined and evaporated in vacuo to give the title compound as a yellow gum (430 mg).

reactant | 2-{[(1S)-1-Methylbutyl]oxy}-8-(methyloxy)-9H-purin-6-amine trifluoroacetate | 1.642 mmol, 600 mg | FC(C(=O)O)(F)F.C[C@@H](CCC)OC1=NC(=C2N=C(NC2=N1)OC)N
reactant | potassium carbonate | 4.11 mmol, 567 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-5-chloropentane | 1.642 mmol, 0.216 ml | BrCCCCCCl | C5H10BrCl
reactant | triethylamine | 2.464 mmol, 0.343 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 10 ml | O | H2O
solvent | brine | 10 ml | [Cl-].[Na+].O
product | 9-(5-Chloropentyl)-2-{[(1S)-1-methylbutyl]oxy}-8-(methyloxy)-9H-purin-6-amine | 430 mg | ClCCCCCN1C2=NC(=NC(=C2N=C1OC)N)O[C@H](CCC)C | C16H26ClN5O2
